US05972975
Methyl 5-(4-methyl-6-(2,5-dimethylpyrrol-1-yl)-2-pyridinyl)pentanoate (330 mg, 1.10 mmol) was dissolved in 6.0 mL of 95% ethanol, and 1.0 mL of water was added followed by 199 mg (3.08 mmol) of 87% potassium hydroxide. After 2 h, an additional 1 mL of water was added along with 351 mg (5.06 mmol) of hydroxylamine hydrochloride. The solution was heated to reflux for 20 h, then cooled and concentrated. The residue was dissolved in 15 mL of 2 N aqueous hydrochloric acid and washed with 2×10 mL of ethyl ether. The aqueous layer was evaporated and triturated with 3×5 mL of methanol. The methanol extracts were evaporated to give 619 mg of partially crystalline material. A portion (495 mg) of this material was dissolved in 6.0 mL of methanol along with 510 mg (2.68 mmol) of p-toluenesulfonic acid and heated to reflux for 20 h. The reaction was cooled and concentrated and the residue was partitioned between 25 mL of saturated aqueous sodium bicarbonate and 50 mL of ethyl acetate. The aqueous layer was extracted with 2×25 mL of ethyl acetate. The combined organic layers were washed with 50 mL of saturated aqueous sodium chloride, dried (sodium sulfate), decanted, and evaporated. The residue was purified by flash column chromatography on 20 g of silica gel, eluting with 500 mL of 50% ethyl acetate in dichloromethane to give 119 mg (61% yield) of methyl 5-(6-amino-4-methyl-2-pyridinyl)pentanoate as an amber oil.

reactant | Methyl 5-(4-methyl-6-(2,5-dimethylpyrrol-1-yl)-2-pyridinyl)pentanoate | 1.10 mmol, 330 mg | CC1=CC(=NC(=C1)N1C(=CC=C1C)C)CCCCC(=O)OC | C18H24N2O2
reactant | potassium hydroxide | 3.08 mmol, 199 mg | [OH-].[K+]
reactant | hydroxylamine hydrochloride | 5.06 mmol, 351 mg | Cl.NO
reactant | p-toluenesulfonic acid | 2.68 mmol, 510 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | ethanol | 6.0 mL | C(C)O | C2H6O
solvent | methanol | 6.0 mL | CO | CH4O
solvent | water | 1 mL | O | H2O
solvent | water | 1.0 mL | O | H2O
product | methyl 5-(6-amino-4-methyl-2-pyridinyl)pentanoate | 119 mg, 61% yield | NC1=CC(=CC(=N1)CCCCC(=O)OC)C | C12H18N2O2
